US05247079
To a solution of cyclopropyl magnesium bromide in dry tetrahydrofuran (prepared from 72 mg (3 mmole)) of magnesium and 362 mg (3 mmole) of cyclopropyl bromide in 4 ml of tetrahydrofuran was added at room temperature in one portion a suspension of 240 mg (1 mmole)of 5,6-dihydro-5-methyl-6-oxo-4H-imidazo [1,5-a]-pyrido [3,4-f][1,4]-diazepine-3-carboxaldehyde suspended in a mixture of 1 ml of tetrahydrofuran and 1 ml of hexamethyl-phosphoramide. After 1 hour, the reaction was quenched with aqueous ammonium chloride and extracted with dichloromethane. Column chromatography (SiO2 -5% methanol in dichloromethane) yielded 120 mg of 5,6-dihydro-5-methyl-6-oxo-4H-imidazo-1,5-a]-pyrido-[3,4-f][1,4]-diazepin-3-yl cyclopropyl carbinol as an oil, (43%).

reactant | cyclopropyl magnesium bromide | C1(CC1)[Mg]Br
reactant | magnesium | [Mg] | Mg
reactant | cyclopropyl bromide | 3 mmole, 362 mg | C1(CC1)Br | C3H5Br
reactant | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo [1,5-a]-pyrido [3,4-f][1,4]-diazepine-3-carboxaldehyde | 1 mmole, 240 mg | CN1CC=2N(C3=C(C1=O)C=NC=C3)C=NC2C=O | C12H10N4O2
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 3 mmole, 72 mg | O1CCCC1 | C4H8O
solvent | hexamethyl-phosphoramide | 1 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | pyrido-[3,4-f][1,4]-diazepin-3-yl cyclopropyl carbinol | N1C=C(N=CC2=C1C=CN=C2)C(O)C2CC2 | C12H13N3O
